* Z:\mnt\design.r\spice\examples\1679.asc
V1 +V 0 15
V2 -V 0 -15
R1 OUT N002 30K
R2 0 N005 30K
R3 N002 N001 1K
R4 N005 N007 1K
R5 N001 N003 3.4K
R6 N006 N007 3.4K
R7 N003 N004 100
R8 N004 N006 100
V3 IN- IN+ SINE(0 10m 1K)
V4 IN+ 0 SINE(0 1 100)
XU1 IN+ N006 N007 +V -V LT1678
XU2 N005 N002 OUT +V -V LT1678
XU3 N004 SHEILD SHEILD +V -V LT1678
XU4 IN- N003 N001 +V -V LT1678
.tran 30m
* Instrumentation Amplifier with Shield Driver
.lib LTC2.LIB
.backanno
.end
